US05273999
A 0.9 g (1.9 mmol) sample of rac-5-[2-(3-methoxy-3-oxo-1-propenyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexyn-1-yl]phenoxy]pentanoic acid methyl ester was hydrogenated in 60 mL of 1:1 methanol-ethyl acetate, over 70 mg of 10% palladium on carbon, at room temperature and 1 atmosphere. rac-2-(5-Methoxy-5-oxopentyloxy)-6-[6-[(tetrahydro-2-H-pyran-2-yl)oxy]hexyl]benzenepropanoic acid methyl ester, an oil, was isolated by filtration of the catalyst and concentration of the filtrate, in quantitative yield.

reactant | rac-5-[2-(3-methoxy-3-oxo-1-propenyl)-3-[6-[(tetrahydro-2H-pyran-2-yl)oxy]-1-hexyn-1-yl]phenoxy]pentanoic acid methyl ester | COC(CCCCOC1=C(C(=CC=C1)C#CCCCCOC1OCCCC1)C=CC(=O)OC)=O | C27H36O7
solvent | methanol ethyl acetate | 60 mL | CO.C(C)(=O)OCC
catalyst | palladium on carbon | 70 mg | [Pd] | Pd
product | rac-2-(5-Methoxy-5-oxopentyloxy)-6-[6-[(tetrahydro-2-H-pyran-2-yl)oxy]hexyl]benzenepropanoic acid methyl ester | quantitative yield | COC(CCC1=C(C=CC=C1CCCCCCOC1OCCCC1)OCCCCC(=O)OC)=O | C27H42O7
